US09079876B2
Step B. Preparation of Compound 2-(methylthio)-5-aminopyridine (Compound 8 B)
Iron powder (3 g), water (20 mL) and concentrated hydrochloric acid (3 mL) were mixed, and 2-(methylthio)-5-nitropyridine (2 g, 12 mmol) was added portionwise. After reflux reaction for 2 hours, the reaction mixture was basified with 1N sodium hydroxide and extracted with 20 mL ethyl acetate for three times. The combined organic phase was dried with anhydrous sodium sulfate, filtered and concentrated to yield the target compound (1.54 g, 11 mmol).

reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | 2-(methylthio)-5-nitropyridine | 12 mmol, 2 g | CSC1=NC=C(C=C1)[N+](=O)[O-] | C6H6N2O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
catalyst | Iron | 3 g | [Fe] | Fe
solvent | water | 20 mL | O | H2O
product | 2-(methylthio)-5-aminopyridine | 11 mmol, 1.54 g | CSC1=NC=C(C=C1)N | C6H8N2S
